US08614221B2
8-Chloro-2-tert-butyl-7-phenyl-1,4,9,9b-tetraaza-cyclopenta[a]naphthalene [CCXXXIX]
To a 100 mL three necked round bottom flask was added 2-tert-butyl-7-phenyl-9H-1,4,9,9b-tetraaza-cyclopenta[a]naphthalen-8-one (1 g, 3.14 mmol, 1.00 equiv), CHCl3 (20 mL), thionyl chloride (0.94 mL, 4.00 equiv) and DMF (48 μL, 0.20 equiv) and the resulting solution was stirred for 1 h at 70° C. under nitrogen. After 1 h, additional thionyl chloride (0.47 mL, 2.00 equiv) and DMF (48 μL, 0.20 equiv) was added and the resulting solution was stirred for an additional 2 h at 70° C. After a total of 3 h, the resulting mixture was concentrated under vacuum and the pH value of the solution was adjusted to 7 with saturated aqueous NaHCO3 solution. The resulting solution was extracted with ethyl acetate and the organic layers were combined and dried and concentrated under vacuum. The residue was loaded onto a silica gel column with ethyl acetate/petroleum ether as the eluent to give the Compound [CCXXXIX] as a yellow solid. 1H NMR (300 MHz, DMSO, δ, ppm) 9.09 (s, 1H), 8.74 (s, 1H), 7.60-7.52 (m, 5H), 6.97 (s, 1H), 1.44 (s, 91-1); LC-MS: m/z=337 (M+H)+.

reactant | 2-tert-butyl-7-phenyl-9H-1,4,9,9b-tetraaza-cyclopenta[a]naphthalen-8-one | 3.14 mmol, 1 g, 1.00 equiv | C(C)(C)(C)C=1C=C2N(C=3NC(C(=CC3C=N2)C2=CC=CC=C2)=O)N1 | C19H18N4O
reactant | thionyl chloride | 0.94 mL, 4.00 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 48 μL, 0.20 equiv | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 0.47 mL, 2.00 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 48 μL, 0.20 equiv | CN(C)C=O | C3H7NO
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Chloro-2-tert-butyl-7-phenyl-1,4,9,9b-tetraaza-cyclopenta[a]naphthalene | ClC1=C(C=C2C=NC=3N(C2=N1)N=C(C3)C(C)(C)C)C3=CC=CC=C3 | C19H17ClN4
